US07994196B2
4-Bromobenzyl bromide (Aldrich Co., 2.0 g) and morpholine (0.73 ml) were dissolved in acetonitrile (15 ml), potassium carbonate (1.3 g) was added, and the mixture was heated under reflux for 4 hr. The insoluble material was filtered off, and the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (5:1)) to give 4-(4-bromobenzyl)morpholine (1.55 g). 4-(4-Bromobenzyl)morpholine (1.55 g), 1-(tert-butoxycarbonyl)piperazine (1.27 g), 2-(di-tert-butylphosphino)biphenyl (37 mg), tris(dibenzylideneacetone)dipalladium (57 mg) and sodium tert-butoxide (1.2 g) were added to toluene (13 ml), and the mixture was heated under reflux for 5 hr. The insoluble material was filtered through a Celite (trademark) filter, and the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. The obtained 4-[4-(morpholine-4-ylmethyl)phenyl]piperazine-1-carboxylic acid tert-butyl ester was dissolved in dichloromethane, trifluoroacetic acid was added and the mixture was stirred overnight at room temperature. The mixture was neutralized with an aqueous sodium hydroxide solution, and extracted with dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure to give 4-(4-piperazin-1-ylbenzyl)morpholine (1.06 g, yield 51%).

reactant | 4-(4-Bromobenzyl)morpholine | 1.55 g | BrC1=CC=C(CN2CCOCC2)C=C1 | C11H14BrNO
reactant | 1-(tert-butoxycarbonyl)piperazine | 1.27 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium tert-butoxide | 1.2 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 57 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 37 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-piperazin-1-ylbenzyl)morpholine | 1.06 g, yield 51% | N1(CCNCC1)C1=CC=C(CN2CCOCC2)C=C1 | C15H23N3O
